US09029549B2
3,3-Dimethylbutyl 2-(1-{[3-(trifluoromethyl)-1H-pyrazol-1-yl]acetyl}piperidin-4-yl)-1,3-thiazole-4-carboxylate (I-767)
A solution of 2-(1-{[3-(trifluoromethyl)-1H-pyrazol-1-yl]acetyl}piperidin-4-yl)-1,3-thiazole-4-carboxylic acid (III-2, 200 mg) is reacted analogously to Example I-811 with 3,3-dimethylbutan-1-ol (68.0 mg). This gives, after chromatographic purification, 3,3-dimethylbutyl 2-(1-{[3-(trifluoromethyl)-1H-pyrazol-1-yl]acetyl}piperidin-4-yl)-1,3-thiazole-4-carboxylate (98 mg, 40%).

reactant | 2-(1-{[3-(trifluoromethyl)-1H-pyrazol-1-yl]acetyl}piperidin-4-yl)-1,3-thiazole-4-carboxylic acid | 200 mg | FC(C1=NN(C=C1)CC(=O)N1CCC(CC1)C=1SC=C(N1)C(=O)O)(F)F | C15H15F3N4O3S
reactant | 3,3-dimethylbutan-1-ol | 68.0 mg | CC(CCO)(C)C | C6H14O
product | 3,3-Dimethylbutyl 2-(1-{[3-(trifluoromethyl)-1H-pyrazol-1-yl]acetyl}piperidin-4-yl)-1,3-thiazole-4-carboxylate | FC(C1=NN(C=C1)CC(=O)N1CCC(CC1)C=1SC=C(N1)C(=O)OCCC(C)(C)C)(F)F | C21H27F3N4O3S
